US06924391B2
(2R, 2S and 3R, 3S)-1,2-Epoxy-3-[4-(tert-butoxycarbonyl)phenoxy]-butane
A solution of (3R and 3S)-3-[4-(tert-butoxycarbonyl)phenoxy]-1-butene (3.78 g, 15.2 mmol) in dry dichloromethane (50 ml) was treated at 22° C. with 3-chloroperoxybenzoic acid (4.8 g, 28.0 mmol) and the resulting mixture was stirred for 140 hours. The mixture was then diluted with toluene, washed with 5% sodium thiosulfate, sodium bicarbonate and dried (magnesium sulfate). Evaporation of the solvent and chromatography of the residue on silica gel (elution toluene-ethyl acetate 2%) gave 3.53 g (87%) of the title material as an oil. 1H NMR indicated a 6:4 diastereoisomeric mixture which was used as such for the next step.

reactant | 3-[4-(tert-butoxycarbonyl)phenoxy]-1-butene | 15.2 mmol, 3.78 g | C(C)(C)(C)OC(=O)C1=CC=C(OC(C=C)C)C=C1 | C15H20O3
reactant | 3-chloroperoxybenzoic acid | 28.0 mmol, 4.8 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,2-Epoxy-3-[4-(tert-butoxycarbonyl)phenoxy]-butane | 3.53 g, 87% | O1CC1C(C)OC1=CC=C(C=C1)C(=O)OC(C)(C)C | C15H20O4
